US07456177B2
Preparation of 11-Ally-6-hydroxy-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-trien-8-one oxime
11-Allyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one (243 mg, 1.0 mmol), hydroxylamine hydrochloride (80 mg, 1.15 mmol) an barium carbonate (227 mg, 1.15 mmol) were stirred and warmed to reflux in methanol (10 mL) for 18 h. Additional hydroxylamine hydrochloride (30 mg, 0.43 mmol) an barium carbonate (70 mg, 0.35 mmol) were introduced and heating continued for 2 h. The mixture was cooled to ambient temperature and filtered through Celite™, rinsed with methanol, concentrated and the residue dissolved in dichloromethane (30 mL), H2O (30 mL) and saturated aqueous NaHCO3 solution (˜30 mL) to achieve pH 8.5. The layers were separated and the aqueous layer was extracted with dichloromethane (2×30 mL), dried through a cotton plug and concentrated to an oily solid (275 mg). This material was triturated with stirring for in dichloromethane (20 mL) for 60 h and the resulting orange solid filtered (100 mg, 39%). (TLC 20% EtOAc/Hex Rf 0.28); 1H NMR (400 MHz, CDCl3) δ 8.10 (br s, OH),), 7.11 (dd, J=8.3, 7.5 Hz, 1H), 6.76 (dd, J=8.3, 0.8 Hz, 1H), 6.64 (dd, J=7.5, 0.8 Hz, 1H), 5.63 (m, 1H), 5.02 (m, 2H), 3.61 (br s, 3H), 3.24 (d, J=10.8 Hz, 1H), 2.97 (br s, 3H), 2.94–2.85 (m, 2H), 2.35 (dd, J=10.8, 2.4 Hz, 1H), 2.24 (dd, J=10.8, 2.4 Hz, 1H), 1.96 (dd, J=12.5, 1.5 Hz, 1H), 1.74 (ddd, J=12.5, 5.6, 2.7 Hz, 1H).

reactant | 11-Allyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one | 1.0 mmol, 243 mg | C(C=C)N1CC2C(C=3C(=CC=CC3C(C1)C2)OC)=O | C16H19NO2
reactant | hydroxylamine hydrochloride | 1.15 mmol, 80 mg | Cl.NO
reactant | barium carbonate | 1.15 mmol, 227 mg | C([O-])([O-])=O.[Ba+2]
reactant | hydroxylamine hydrochloride | 0.43 mmol, 30 mg | Cl.NO
reactant | barium carbonate | 0.35 mmol, 70 mg | C([O-])([O-])=O.[Ba+2]
solvent | methanol | 10 mL | CO | CH4O
product | 11-Ally-6-hydroxy-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-trien-8-one oxime | C(C=C)N1CC2C(C3=C(C=CC=C3C(C1)C2)O)=NO | C15H18N2O2
